US07402595B2
6-bromo-3-(1-hydroxy-2-phenylethyl)-2-(4-ethanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
To a solution (5 ml) of 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde (500 mg) in THF was added dropwise a solution (1M, 1.2 ml) of benzylmagnesium chloride in THF at room temperature, and the mixture was stirred for 10 min. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from diisopropyl ether to give the title compound (400 mg).

reactant | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde | 5 ml, 500 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C=O)C1=CC=CC=C1 | C24H18BrNO4S
reactant | benzylmagnesium chloride | 1M, 1.2 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | Water | O | H2O
reactant | THF | C1CCOC1 | C4H8O
product | 6-bromo-3-(1-hydroxy-2-phenylethyl)-2-(4-ethanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | 400 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)CC)C(CC1=CC=CC=C1)O)C1=CC=CC=C1 | C32H28BrNO4S
